US08455665B2
(S)-3-[(R)-1-(2,4-Dichlorophenoxy)-2-methoxyethyl]pyrrolidine
(S)-3-((R)-1-Hydroxy-2-methoxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester (10.0 mg, 40.8 μmol) was dissolved in DMF (0.1 mL). NaH (1.5 mg, 61.1 μmol) was slowly added and the mixture was stirred at room temperature for 15 minutes. Then, 2,4-dichloro-1-fluorobenzene (20.2 mg, 122 μmol) was added. The mixture was stirred at 100° C. for 1 hour, then cooled to room temperature. The mixture was concentrated then dissolved in 1.2M HCl in EtOH (1.0 mL, 1.2 mmol) and stirred overnight at room temperature. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (12.8 mg, 99% purity). MS m/z: [M+H]+ calcd for C13H17Cl2NO2, 290.06. found 290.0.

reactant | (S)-3-((R)-1-Hydroxy-2-methoxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 40.8 μmol, 10.0 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](COC)O | C12H23NO4
reactant | NaH | 61.1 μmol, 1.5 mg | [H-].[Na+]
reactant | 2,4-dichloro-1-fluorobenzene | 122 μmol, 20.2 mg | ClC1=C(C=CC(=C1)Cl)F | C6H3Cl2F
reactant | EtOH | 1.2 mmol, 1.0 mL | CCO | C2H6O
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (S)-3-[(R)-1-(2,4-Dichlorophenoxy)-2-methoxyethyl]pyrrolidine | ClC1=C(O[C@@H](COC)[C@@H]2CNCC2)C=CC(=C1)Cl | C13H17Cl2NO2
